US06960601B2
Step 1, 2-(2-Chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid (1.5 g, 4.5 mmol) was dissolved in dichloromethane (40 mL). 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDCI, 946 mg, 4.95 mmol) and triethylamine (500 mg, 4.95 mmol) were added followed by pentafluorophenol (815 mg, 4.37 mmol). The mixture was stirred at rt under argon for one hour before it was washed with 5% HCl, sodium bicarbonate solution, and then brine. The organic layer was dried (MgSO4), filtered, and concentrated to give the crude product (1.26 g) which was chromatographed over silica gel (20% EtOAc in hexanes) to afford pentafluorophenyl 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylate (0.73 g, 32% yield): LC-MS m/z 499.0 (MH+), retention time 3.93 min (method 1).

reactant | 2-(2-Chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylic acid | 4.5 mmol, 1.5 g | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O2
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.95 mmol, 946 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 4.95 mmol, 500 mg | C(C)N(CC)CC | C6H15N
reactant | pentafluorophenol | 4.37 mmol, 815 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | pentafluorophenyl 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxylate | 0.73 g, 32% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)C1=CC=C(C=C1)Cl | C22H9Cl2F5N2O2
